US04032567
N-(3-Carboxy-5-acetamido-2,4,6-triiodobenzoyl)-glycine Amide
Under agitation and cooling with wter, 13.5 ml. of acetyl chloride is added dropwise to 40.0 g. (65 millimoles) of N-(3-carboxy-5-amino-2,4,6-triiodobenzoyl)-glycine amide (IVc), m.p. 248°-249° C. (decomposition), in 80 ml. of dimethylacetamide. Then, the reaction mixture is stirred at room temperature for 11/2 hours, another 2 ml. of acetyl chloride is added thereto, and the mixture stirred for another hour. After the addition of 10 ml. of water, the reaction mixture is concentrated under vacuum, 70 ml. of water is added to the residue, and the mixture is stirred for 16 hours. The precipitate is vacuum-filtered and washed free of salt with water.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | N-(3-carboxy-5-amino-2,4,6-triiodobenzoyl)-glycine amide | 65 millimoles | C(=O)(O)C=1C(=C(C(=O)NC(CN)=O)C(=C(C1I)N)I)I | C10H8I3N3O4
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | N-(3-Carboxy-5-acetamido-2,4,6-triiodobenzoyl)-glycine Amide | C(=O)(O)C=1C(=C(C(=O)NC(CN)=O)C(=C(C1I)NC(C)=O)I)I | C12H10I3N3O5
